US04490541
50 parts of 2-cyano-3-methoxymaleimide are introduced into a solution of 16.5 parts of hydrazine hydrate in 300 parts by volume of isopropanol, while cooling with ice, the reaction mixture is then stirred at room temperature for half an hour, and the red precipitate is filtered off under suction, washed with isopropanol and dried. 47 PG,6 parts (94% of theory) of 2-cyano-3-hydrazinomaleimide of melting point >350° C. are obtained. IR (KBr): 3120, 2200, 1670 cm-1.

reactant | 2-cyano-3-methoxymaleimide | C(#N)C=1C(=O)NC(C1OC)=O | C6H4N2O3
reactant | hydrazine hydrate | O.NN
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-cyano-3-hydrazinomaleimide | 94% | C(#N)C=1C(=O)NC(C1NN)=O | C5H4N4O2
